US06642251B1
A mixture of 680 mg 1,5,6,7-tetrahydro-4H-indol-4-one and 1.33 g oxindole in 3 ml dimethylforamide was heated at 140° C. for 50 hours. The mixture was diluted with water and extracted with ethyl acetate. The organic extracts were washed with water and then brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified on a silica gel column using hexanes/ethyl acetate as the eluent to provide 150 mg of 1′,5′,6′,7′-tetrahydro-1H-[3,4′]biindolyliden-2-one as a yellow solid.

reactant | 1,5,6,7-tetrahydro-4H-indol-4-one | 680 mg | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | oxindole | 1.33 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
solvent | dimethylforamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1′,5′,6′,7′-tetrahydro-1H-[3,4′]biindolyliden-2-one | 150 mg | N1C(C(C2=CC=CC=C12)=C1C=2C=CNC2CCC1)=O | C16H14N2O
